US04888345
4-(3-Methoxyphenyl)imidazo[1,5-a]pyrimidine-8-carboxamide
A stirred mixture of 15.0 g of 3-dimethylamino-3'-methoxyacrylophenone (prepared as described in Example 5 and 9.2 g of 4-amino-5-imidazolecarboxamide hydrochloride in 150 ml of glacial acetic acid was heated at reflux for 24 hours. The solvent was evaporated in vacuo and the crystalline residue was treated with 100 ml of saturated sodium bicarbonate solution, filtered and washed with 200 ml of water to give yellow crystals. This material was treated with 400 ml of acetonitrile then with 600 ml of hot ethanol to give 9.9 g of the product of the example as yellow crystals, mp 249°-252° C.

reactant | 3-dimethylamino-3'-methoxyacrylophenone | 15.0 g | CN(C=CC(=O)C1=CC(=CC=C1)OC)C | C12H15NO2
reactant | 4-amino-5-imidazolecarboxamide hydrochloride | 9.2 g | Cl.NC=1N=CNC1C(=O)N
reactant | acetonitrile | 400 ml | C(C)#N | C2H3N
reactant | ethanol | 600 ml | C(C)O | C2H6O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 4-(3-Methoxyphenyl)imidazo[1,5-a]pyrimidine-8-carboxamide | 9.9 g | COC=1C=C(C=CC1)C1=CC=NC=2N1C=NC2C(=O)N | C14H12N4O2
